US06610711B2
4-Bromo-N-methyl-3-oxo-N-phenylbutanamide
To a solution of N-methyl-3-oxo-N-phenylbutanamide (26.0 g, 0.136 mol) in carbon tetrachloride (200 ml) was added bromine (24.05 g, 0.15 mol) dropwise over 30 min, and the mixture was heated under reflux for 5 min. After allowing to cool to room temperature, the reaction mixture was concentrated in vacuo, triturated with diethyl ether and filtered to afford the title compound as a white solid (10.3 g, 28%).

reactant | N-methyl-3-oxo-N-phenylbutanamide | 0.136 mol, 26.0 g | CN(C(CC(C)=O)=O)C1=CC=CC=C1 | C11H13NO2
reactant | bromine | 0.15 mol, 24.05 g | BrBr | Br2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromo-N-methyl-3-oxo-N-phenylbutanamide | 10.3 g, 28% | BrCC(CC(=O)N(C1=CC=CC=C1)C)=O | C11H12BrNO2
